US04237138
Preparation of 4-Amino-6,7-Dimethoxy-2-[4-(2-phenoxy-1-phenylethoxy)piperidino]quinazoline hydrochloride hydrate
4-Amino-2-chloro-6,7-dimethoxyquinazoline (1.44 g.) and 4-(2-phenoxy-1-phenylethoxy)piperidine (2.0 g.) in n-butanol (100 ml.) were heated under reflux for 20 hours. The solvent was then evaporated in vacuo, the residue triturated with ether and crystallized from isopropanol. The solid was partitioned between chloroform and aqueous sodium carbonate solution, the chloroform extract dried (MgSO4) and the solvent evaporated in vacuo. The residue was chromatographed on silica (100 g.) eluting with chloroform followed by chloroform methanol (20:1). Fractions containing the product were combined, the solvent evaporated in vacuo and the residue converted to the hydrochloride salt by treatment of a chloroform solution with ethereal hydrogen chloride.

reactant | 4-Amino-2-chloro-6,7-dimethoxyquinazoline | 1.44 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | 4-(2-phenoxy-1-phenylethoxy)piperidine | 2.0 g | O(C1=CC=CC=C1)CC(OC1CCNCC1)C1=CC=CC=C1 | C19H23NO2
solvent | n-butanol | 100 ml | C(CCC)O | C4H10O
product | 4-Amino-6,7-Dimethoxy-2-[4-(2-phenoxy-1-phenylethoxy)piperidino]quinazoline hydrochloride hydrate | O.Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCC(CC1)OC(COC1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C29H32N4O4.ClH.H2O/c1-34-25-17-23-24(18-26(25)35-2)31-29(32-28(23)30)33-15-13-22(14-16-33)37-27(20-9-5-3-6-10-20)19-36-21-11-7-4-8-12-21;;/h3-12,17-18,22,27H,13-16,19H2,1-2H3,(H2,30,31,32);1H;1H2
